US04482572
1-[(3-Methoxycarbonyl-2-methylpropanoyl)amino]-1-cyclopentanecarboxylic acid, benzyl ester was prepared as described in Example 3 from 10.96 g (0.050 mol) of 1-amino-1-cyclopentanecarboxylic acid, benzyl ester and 7.31 g (0.050 mol) of 3-methoxycarbonyl-2-methylpropionic acid. Crude di-ester crystallized to give 13.57 g (78%) of an off-white solid, mp: 88°-93°. This was used without further purification.

reactant | 1-amino-1-cyclopentanecarboxylic acid, benzyl ester | 0.050 mol, 10.96 g | NC1(CCCC1)C(=O)OCC1=CC=CC=C1 | C13H17NO2
reactant | 3-methoxycarbonyl-2-methylpropionic acid | 0.050 mol, 7.31 g | COC(=O)CC(C(=O)O)C | C6H10O4
product | 1-[(3-Methoxycarbonyl-2-methylpropanoyl)amino]-1-cyclopentanecarboxylic acid, benzyl ester | COC(=O)CC(C(=O)NC1(CCCC1)C(=O)OCC1=CC=CC=C1)C | C19H25NO5
